US07611692B2
A 1 N solution of NaOH (6.15 mL; 6.14 mmol) was added dropwise to a solution of 4-(aminomethyl)-3-methoxybenzoic acid methyl ester C (1.2 g; 6.14 mmol) in MeOH (25 mL) heated at 40° C. After stirring 8 h at 45° C. the solution was stirred over night at room temperature. A 1 N solution of NaOH (0.6 mL; 0.6 mmol) was added and the mixture heated at 40° C. for 4 h. The solution was concentrated, acidified with 1 N HCl (8 mL; 8 mmol), extracted with EtOAc (2×10 mL) then the aqueous layer was concentrated to 15 mL. This solution (pH 4.5) was cooled at 0° C. and Et3N (936 μL; 6.75 mmol) was added (pH 11). A solution of N-(9-fluorenylmethoxycarbonyloxy)succinimide (3.04 g; 9 mmol) in MeCN (30 mL) was added dropwise (final pH 9) and a white solid precipitated. After stirring 1 h at room temperature the solid was filtered, suspended in 1N HCl (15 mL) and the suspension was stirred for 30 min. The solid was filtered to provide 4-[[[9H-fluoren-9-ylmethoxy)carbonyl]amino]methyl]-3-methoxybenzoic acid E as a white solid (275 mg; 0.7 mmol).

reactant | NaOH | 6.14 mmol, 6.15 mL | [OH-].[Na+]
reactant | 4-(aminomethyl)-3-methoxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)CN)OC)=O | C10H13NO3
reactant | NaOH | 0.6 mmol, 0.6 mL | [OH-].[Na+]
reactant | HCl | 8 mmol, 1 N, 8 mL | Cl | ClH
reactant | Et3N | 6.75 mmol, 936 μL | CCN(CC)CC | C6H15N
reactant | N-(9-fluorenylmethoxycarbonyloxy)succinimide | 9 mmol, 3.04 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
solvent | MeOH | 25 mL | CO | CH4O
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 3-methoxybenzoic acid | yield 20% | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
